US06734191B2
To a solution of 2-Hydroxy-4-methylbenzonitrile (0.563 g, 4.23 mmol) in CH2Cl2 (21 mL) was added acetic anhydride (0.60 mL, 6.36 mmol) followed by triethylamine (1.20 mL, 8.61 mmol) and the resultant solution was stirred at room temperature for 30 minutes. The mixture was diluted with CH2Cl2 (60 mL), washed with saturated aqueous NaHCO3 (20 mL) and brine (2×20 mL). The organic phase was dried (Na2SO4) and concentrated and provided 0.72 g (97%) of (2-cyano-5-methyl-phenyl) acetate as a white solid. 1H NMR (CDCl3) δ2.38 (s, 3H), 2.43 (s, 3H), 7.08 (s, 1H), 7.13 (d, 1H, J=9 Hz), 7.54 (d, 1H, J=9 Hz).

reactant | 2-Hydroxy-4-methylbenzonitrile | 4.23 mmol, 0.563 g | OC1=C(C#N)C=CC(=C1)C | C8H7NO
reactant | acetic anhydride | 6.36 mmol, 0.60 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 8.61 mmol, 1.20 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 21 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | (2-cyano-5-methyl-phenyl) acetate | 0.72 g, 97% | C(C)(=O)OC1=C(C=CC(=C1)C)C#N | C10H9NO2
